US05624923
N-[4-(7,8-Methylenedioxy-5H-imidazo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl]phenyl]-2-methylbenzamide
As described for Example 125 a mixture of 1.0 mmol of 7,8-methylenedioxy-10,11-dihydro-5H-imidazo[2,1-c][1,4]benzodiazepine, 1.1 mmol of 4-[(2-methylbenzoyl)amino]benzoyl chloride and 1.5 mmol of triethylamine in 10 ml of dichloromethane is stirred at room temperature for 3 hours and worked up to give the desired product as a solid.

reactant | 7,8-methylenedioxy-10,11-dihydro-5H-imidazo[2,1-c][1,4]benzodiazepine | 1.0 mmol | C1OC=2C(=CC3=C(CN4C(CN3)=NC=C4)C2)O1 | C12H11N3O2
reactant | 4-[(2-methylbenzoyl)amino]benzoyl chloride | 1.1 mmol | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
reactant | triethylamine | 1.5 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[4-(7,8-Methylenedioxy-5H-imidazo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl]phenyl]-2-methylbenzamide | C1OC=2C(=CC3=C(CN4C(CN3C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O)=NC=C4)C2)O1 | C27H22N4O4
